US04649145
5,5-Diphenyl-2-methylthio-4-imidazolidinone (63)
7.0 g of 5,5-diphenyl-2-thiohydantoin is dissolved in 50 ml of ethanol and 10 ml of 3N sodium carbonate added followed by 3 ml of iodomethane. The mixture is refluxed for 18 hours, then cooled and the solvent evaporated. The residual solid is recrystallized from ethanol to give 4.6 g (60%) of the title compound.

reactant | 5,5-diphenyl-2-thiohydantoin | 7.0 g | C1(=CC=CC=C1)C1(C(NC(N1)=S)=O)C1=CC=CC=C1 | C15H12N2OS
reactant | sodium carbonate | 3N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodomethane | 3 ml | IC | CH3I
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,5-Diphenyl-2-methylthio-4-imidazolidinone | 4.6 g, 60% | C1(=CC=CC=C1)C1(C(NC(N1)SC)=O)C1=CC=CC=C1 | C16H16N2OS
